US05545568
4-(4-Benzoyl-3-fluorenylmethoxycarbonylamino-phenoxymethyl) phenoxyacetic acid allyl ester
4-(3-Amino-4-benzoylphenoxymethyl)phenoxyacetic acid allyl ester (4.74 g, 11.4 mmol) and pyridine (1.09 g, 13.7 mmol, 1.2 equiv) were dissolved in 60 mL of CH2Cl2. The resulting yellow solution was cooled to 0° C., and fluorenylmethoxycarbonyl chloride (2.65 g, 1.14 mmol, 1.05 equiv) was added. The resulting solution was stirred at 0° C. for 15 min and then at ambient temperature for 1 h. The solution was diluted with CH2Cl2 (150 mL), extracted twice with 1N aqueous sodium bisulfate (100 mL), once with dilute aqueous sodium chloride (100 mL), and then concentrated to give a yellow foam. The unpurified product was crystallized from CH2Cl2 and hexanes to give 4.87 g (79% yield) purified material as a white solid: mp 96.5°-97.5° C. Rf 0.45 (CH2Cl2); IR (film from CH2Cl2, partial) 3230(b), 1740, 1610, 1575 cm-1 ; 1H NMR (300 MHz, CDCl3) δ 4.32 (t, 1, J=7.4), 4.44 (s, 1, J=0.5), 4.71 (dd, 2, J=1.2, 5.9), 5.11 (s, 2), 5.26 (dd, 1, J=1.2, 10.4), 5.30 (dd, 1, J=1.4, 17.2), 5.85-598 (m, 2), 6.58 (dd, 2, J=2,5m 8.9) 6.92 (d, 2, J=8.8, 6.92 (q, 2, J=4.8, 9.6), 7.30-7.59 (m, 8), 7.63-7.70 (m,5), 7.76 (d, 2, J=8.9), 7.77 (d, 2, J=7.5), 8.29 (d, 1, J=2.3). 13C NMR (75.5 MHz, CDCl3) δ 47.3, 65.6, 66.2, 67.9, 70.0, 104.4, 109.6, 115.2, 115.8, 119.5, 120.4, 125.6, 127.5, 128.1, 128.8, 129.6, 129.8, 131.7, 131.9, 137.6, 140.0, 141.6, 144.1, 144.6, 154.1, 158.5, 164.1, 167.8, 199.1. Anal. Calcd for C40H33NO7 : C, 75.10; H, 5.20; N, 2.19. Found: C, 75.21; H, 5.33; N, 2.28.

reactant | 4-(3-Amino-4-benzoylphenoxymethyl)phenoxyacetic acid allyl ester | 11.4 mmol, 4.74 g | C(C=C)OC(COC1=CC=C(C=C1)COC1=CC(=C(C=C1)C(C1=CC=CC=C1)=O)N)=O | C25H23NO5
reactant | pyridine | 13.7 mmol, 1.09 g, 1.2 equiv | N1=CC=CC=C1 | C5H5N
reactant | fluorenylmethoxycarbonyl chloride | 1.14 mmol, 2.65 g, 1.05 equiv | C1(=CC=CC=2C3=CC=CC=C3CC12)COC(=O)Cl | C15H11ClO2
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-Benzoyl-3-fluorenylmethoxycarbonylamino-phenoxymethyl) phenoxyacetic acid allyl ester | 79% yield | C(C=C)OC(COC1=CC=C(C=C1)COC1=CC(=C(C=C1)C(C1=CC=CC=C1)=O)NC(=O)OCC1=CC=CC=2C3=CC=CC=C3CC12)=O | C40H33NO7
